US07700594B2
Methyl 4-(8-amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)piperidine-1-carboxylate
A mixture of 1-(1H-indol-2-yl)-3-piperidin-4-ylimidazo[1,5-a]pyrazin-8-amine hydrochloride (30.0 mg, 0.0679 mmol), N,N-diisopropylethylamine (59.1 μL, 0.340 mmol) and DMF (100 mL) was treated with methyl chloroformate (5.25 μL, 0.0679 mmol) and stirred at rt for 1 h prior to semi-preparative HPLC to afford the isolation of the title compound. 1H NMR (400 MHz, CD3OD) ppm: 8.32 (br. s., 1H), 7.58-7.66 (m, 2H), 7.46 (d, 1H, J=8.1 Hz), 7.14-7.22 (m, 1H), 7.00-7.12 (m, 2H), 6.73 (s, 1H), 4.26 (d, 2H, J=12.9 Hz), 3.71 (s, 3H), 3.33-3.37 (m, 1H), 2.9-3.17 (m, 2H), 1.85-2.06 (m, 4H); MS (ES+): m/z 391.06 [MH+].

reactant | 1-(1H-indol-2-yl)-3-piperidin-4-ylimidazo[1,5-a]pyrazin-8-amine hydrochloride | 0.0679 mmol, 30.0 mg | Cl.N1C(=CC2=CC=CC=C12)C=1N=C(N2C1C(=NC=C2)N)C2CCNCC2
reactant | N,N-diisopropylethylamine | 0.340 mmol, 59.1 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl chloroformate | 0.0679 mmol, 5.25 μL | ClC(=O)OC | C2H3ClO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | Methyl 4-(8-amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)piperidine-1-carboxylate | NC=1C=2N(C=CN1)C(=NC2C=2NC1=CC=CC=C1C2)C2CCN(CC2)C(=O)OC | C21H22N6O2
